US09388161B2
XPhos Precatalyst 2nd Generation (0.186 g, 0.24 mmol) was added to a nitrogen purged solution of (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.672 g, 2.36 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.892 g, 2.36 mmol), and potassium phosphate (2.51 g, 11.8 mmol) in 1,4-dioxane (4.0 mL) and water (0.8 mL), and the reaction mixture was heated at 100° C. overnight. The crude reaction mixture was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 30-10% hexanes in ethyl acetate) to afford tert-butyl (S)-4-(4-(1-acetyl-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (225 mg, 21%) as a white fluffy powder. MS (ESI, pos. ion) m/z 455 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 2.36 mmol, 0.672 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 2.36 mmol, 0.892 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | potassium phosphate | 11.8 mmol, 2.51 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.8 mL | O | H2O
product | tert-butyl (S)-4-(4-(1-acetyl-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 225 mg, 21% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O)C | C25H34N4O4
